US09023847B2
22. 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid [2-(3-fluoro-phenyl)-ethyl]-amide
This compound was prepared in an analogous manner as 3-{[3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carbonyl]-amino}-pyrrolidine-1-carboxylic acid tert-butyl ester using 2-(3-fluorophenyl)ethylamine instead of 1-BOC-3-aminopyrrolidine. LCMS (ESI) 381 (M+H) 1H NMR (400 MHz, DMSO-d6) δ ppm 11.87 (1H, br. s.) 10.38 (1H, s) 8.22 (1H, t, J=5.66 Hz) 8.05 (1H, d, J=6.05 Hz) 7.82 (1H, d, J=5.47 Hz) 7.42 (1H, d, J=5.27 Hz) 7.37 (1H, d, J=3.51 Hz) 7.26 (1H, td, J=8.00, 6.44 Hz) 7.04 (2H, dd, J=8.00, 2.54 Hz) 6.98 (1H, td, J=8.88, 2.93 Hz) 6.77 (1H, d, J=6.05 Hz) 6.54 (1H, d, J=3.51 Hz) 3.42-3.51 (2H, m) 2.82 (2H, t, J=7.13 Hz)

reactant | 3-{[3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carbonyl]-amino}-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(CC1)NC(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2 | C21H25N5O3S
reactant | 2-(3-fluorophenyl)ethylamine | FC=1C=C(C=CC1)CCN | C8H10FN
product | 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid [2-(3-fluoro-phenyl)-ethyl]-amide | FC=1C=C(C=CC1)CCNC(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2 | C20H17FN4OS
